US08871756B2
4-(4-Chloro-6-methylquinolin-2-yl)-8-methoxy-2,3,4,5-tetrahydro-1,4-benzothiazepine
A mixture of 8-methoxy-2,3,4,5-tetrahydro-1,4-benzothiazepine (0.63 g, 3.2 mmol), 2,4-dichloro-6-methylquinoline (0.68 g, 3.2 mmol) and n-butanol (4 mL) was heated with stirring in a 5 mL of microwave process vial for 2.5 hours at 160° C. under microwave irradiation. The solvent was removed by concentration in vacuo. The residue was dissolved in a mixture solvent of ethanol and dichloromethane and then concentrated in vacuo to remove dichloromethane. The formed precipitate was collected by filtration, which was washed with diethyl ether and petroleum ether, dried in vacuo to afford 0.59 g of the product as a pale white solid (yield was 50%). MS obsd. (ESI+) [(M+H)+] 371.

reactant | 8-methoxy-2,3,4,5-tetrahydro-1,4-benzothiazepine | 3.2 mmol, 0.63 g | COC1=CC2=C(CNCCS2)C=C1 | C10H13NOS
reactant | 2,4-dichloro-6-methylquinoline | 3.2 mmol, 0.68 g | ClC1=NC2=CC=C(C=C2C(=C1)Cl)C | C10H7Cl2N
solvent | n-butanol | 4 mL | C(CCC)O | C4H10O
product | 4-(4-Chloro-6-methylquinolin-2-yl)-8-methoxy-2,3,4,5-tetrahydro-1,4-benzothiazepine | 0.59 g, yield was 50% | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCSC2=C(C1)C=CC(=C2)OC | C20H19ClN2OS
